US08314147B2
Intermediate 93: ethyl (4-{[(5-{[(3-chlorophenyl)methyl]oxy}-2-methylphenyl)carbonyl]amino}-3-methylphenyl)acetate (Intermediate 62)
Oxalyl chloride (15.1 ml, 173 mmol) was added over approx 1 minute to a stirred suspension of 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoic acid (31.8 g, 115 mmol) in dichloromethane (1.14 L) at 20° C. under argon. This was followed by the addition of N,N dimethylformamide (2 ml, 25.8 mmol) over 3 minutes with accompanying gas evolution but no noticeable temperature rise. Within approx 15 minutes the suspension dissolved and turned a darker brown. The mixture was stirred under argon at 20° C. for a total of 75 minutes. After 75 minutes the reaction mixture was evaporated in vacuo to a cream solid which was dried under vacuum at room temperature for 1 h. The solid was then redissolved in dichloromethane (900 ml) and to the stirred solution at 20° C. under argon was simultaneously added a solution of ethyl (4-amino-3-methylphenyl)acetate (24.4 g, 126 mmol) in dichloromethane (240 ml) and triethylamine (24 ml) over 10-15 minutes. The temperature rise in the reaction was from 20° C. to 30° C. over this time and thereafter slowly cooled to ambient. The brown solution was stirred under argon at room temperature for 14 h. After 14 h stirring the brown solution was washed with water (2×1 L). The combined aqueous washes were re-extracted with dichloromethane (500 ml) and all the organic extracts were combined, dried (MgSO4) and evaporated in vacuo to a brown oily solid which was dried at room temperature, under vacuum for 0.5 hours (wt=51.7 g). This material was dissolved in dichloromethane (200 ml) and the solution column chromatographed on Biotage 75 L system eluting with an ethyl acetate/iso-hexane gradient mixture and collecting 400 ml fractions as follows:

reactant | Oxalyl chloride | 173 mmol, 15.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-{[(3-chlorophenyl)methyl]oxy}-2-methylbenzoic acid | 115 mmol, 31.8 g | ClC=1C=C(C=CC1)COC=1C=CC(=C(C(=O)O)C1)C | C15H13ClO3
reactant | N,N dimethylformamide | 25.8 mmol, 2 ml | CN(C=O)C | C3H7NO
reactant | ethyl (4-amino-3-methylphenyl)acetate | 126 mmol, 24.4 g | NC1=C(C=C(C=C1)CC(=O)OCC)C | C11H15NO2
solvent | dichloromethane | 1.14 L | ClCCl | CH2Cl2
solvent | dichloromethane | 240 ml | ClCCl | CH2Cl2
solvent | triethylamine | 24 ml | C(C)N(CC)CC | C6H15N
product | ethyl (4-{[(5-{[(3-chlorophenyl)methyl]oxy}-2-methylphenyl)carbonyl]amino}-3-methylphenyl)acetate | ClC=1C=C(C=CC1)COC=1C=CC(=C(C1)C(=O)NC1=C(C=C(C=C1)CC(=O)OCC)C)C | C26H26ClNO4
